US08008298B2
1-{2-[3-(3-Hydroxy-propyl)-phenyl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-2,2-dimethyl-propan-1-one was prepared starting from 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one and 3-(3-hydroxypropyl)benzeneboronic acid following general procedures as described in these Examples. Silica gel chromatography using 20-100% EtOAc in hexanes as eluant provided 80 mg (48%) of a yellow solid. MP 170-171° C., M+H=338.

reactant | 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | BrC=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C11H12BrN3O
reactant | 3-(3-hydroxypropyl)benzeneboronic acid | OCCCC=1C=C(C=CC1)B(O)O | C9H13BO3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-{2-[3-(3-Hydroxy-propyl)-phenyl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-2,2-dimethyl-propan-1-one | OCCCC=1C=C(C=CC1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C20H23N3O2
